datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"N/C(CC[NH2+]c1ccccc1)=[N:10]/O.c1cc[n+:21]([H:20])nc1>>N/C(CC[NH2+]c1ccccc1)=[N+:10](/O)[H:20].c1cc[n:21]nc1 10=20;20,21=21",
"CC(=O)N(C)c1cccc[n+:21]1[H:20].N[N-:10]C(=O)c1ccccn1>>CC(=O)N(C)c1cccc[n:21]1.N[N:10](C(=O)c1ccccn1)[H:20] 10=20;20,21=21",
"O=C([O-])[C@H](Cc1c[nH]cn1)NC(=O)[C@H](Cc1c[nH]cn1)[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])[C@H](Cc1c[nH]cn1)NC(=O)[C@H](Cc1c[nH]cn1)[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)(C)c1ccc(C(O)CCC[N+:21]2([H:20])CCC(C(O)(c3ccccc3)c3ccccc3)CC2)cc1.CCCCCCCCCCCC[NH2+]CCC(=O)[O-:10]>>CC(C)(C)c1ccc(C(O)CCC[N:21]2CCC(C(O)(c3ccccc3)c3ccccc3)CC2)cc1.CCCCCCCCCCCC[NH2+]CCC(=O)[O:10][H:20] 10=20;20,21=21",
"C=CC(C)(CC)[N:10](C)C(C)C.C[NH+:21](CC#N)[H:20]>>C=CC(C)(CC)[N+:10](C)(C(C)C)[H:20].C[NH:21]CC#N 10=20;20,21=21",
"CCC(C(=O)[O-])[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CCC(C(=O)[O-])[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"C[NH+](C)CCCNc1cc[n:10]c2c([N+](=O)[O-])cccc12.C[n+]1ccc2cc([O:21][H:20])ccc2c1>>C[NH+](C)CCCNc1cc[n+:10]([H:20])c2c([N+](=O)[O-])cccc12.C[n+]1ccc2cc([O-:21])ccc2c1 10=20;20,21=21",
"CC1CC[N+:21](C)([H:20])C(C)(C)C1.COc1cc(/C=N/c2ncc3nc[nH]c3n2)ccc1[O-:10]>>CC1CC[N:21](C)C(C)(C)C1.COc1cc(/C=N/c2ncc3nc[nH]c3n2)ccc1[O:10][H:20] 10=20;20,21=21",
"CCCCN(C(=O)c1ccc([O:21][H:20])cc1)c1ccc(/N=N/c2ccc3c(c2)OCCOCCOCCOCCOCCO3)cc1.Cc1cc(C)[n:10]c2c(O)cccc12>>CCCCN(C(=O)c1ccc([O-:21])cc1)c1ccc(/N=N/c2ccc3c(c2)OCCOCCOCCOCCOCCO3)cc1.Cc1cc(C)[n+:10]([H:20])c2c(O)cccc12 10=20;20,21=21",
"CC[N:10]1CCCC1CNC(=O)c1c(OC)ccc(Cl)c1[O-].[NH3+]Cc1cc[n+:21]([H:20])cc1>>CC[N+:10]1([H:20])CCCC1CNC(=O)c1c(OC)ccc(Cl)c1[O-].[NH3+]Cc1cc[n:21]cc1 10=20;20,21=21",
"NC(=S)C1([NH2:10])CCCCC1.[O-]c1ccccc1C[N+:21]1([H:20])CCCCC1>>NC(=S)C1([NH2+:10][H:20])CCCCC1.[O-]c1ccccc1C[N:21]1CCCCC1 10=20;20,21=21",
"COc1ccc(C[NH2:10])cc1N.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>COc1ccc(C[NH2+:10][H:20])cc1N.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCc1c(C)nn(-c2ccccc2)c1[O-:10].COC(O)(C(F)(F)F)[O:21][H:20]>>CCc1c(C)nn(-c2ccccc2)c1[O:10][H:20].COC(O)(C(F)(F)F)[O-:21] 10=20;20,21=21",
"CCc1cc(CC)c([O:21][H:20])c(C(=O)NCC2CCC[NH+]2CC)c1OC.CNc1c2nc(-c3ccc(S(C)=O)cc3OC)cn2cc[n:10]1>>CCc1cc(CC)c([O-:21])c(C(=O)NCC2CCC[NH+]2CC)c1OC.CNc1c2nc(-c3ccc(S(C)=O)cc3OC)cn2cc[n+:10]1[H:20] 10=20;20,21=21",
"Nc1c2ccccc2[nH+]c2cc([O:21][H:20])ccc12.O=P([O-])([O-])C([NH2+]Cc1cccnc1)c1ccccc1[O-:10]>>Nc1c2ccccc2[nH+]c2cc([O-:21])ccc12.O=P([O-])([O-])C([NH2+]Cc1cccnc1)c1ccccc1[O:10][H:20] 10=20;20,21=21",
"CNc1ncnc2nc[n:21]([H:20])c12.OC(C[S-])C[S-:10]>>CNc1ncnc2nc[n-:21]c12.OC(C[S-])C[S:10][H:20] 10=20;20,21=21",
"COc1ccc2[nH]c3c(C)[n+:21]([H:20])ccc3c2c1.Cc1ccc(C(=O)[O-:10])c(O)c1>>COc1ccc2[nH]c3c(C)[n:21]ccc3c2c1.Cc1ccc(C(=O)[O:10][H:20])c(O)c1 10=20;20,21=21",
"CC[NH+](CC)CCNc1nc(C)[n+:21]([H:20])c(Nc2ccc(Cl)cc2)n1.CN(C)C(=O)OCC(=O)[O-:10]>>CC[NH+](CC)CCNc1nc(C)[n:21]c(Nc2ccc(Cl)cc2)n1.CN(C)C(=O)OCC(=O)[O:10][H:20] 10=20;20,21=21",
"COc1c[n:10]c2ccccc2n1.O=C(NCC(=O)[O:21][H:20])c1cccc(O)c1O>>COc1c[n+:10]([H:20])c2ccccc2n1.O=C(NCC(=O)[O-:21])c1cccc(O)c1O 10=20;20,21=21",
"CN1CC[N:10](C)c2cccc3cccc1c23.Cc1c2cc[n+:21]([H:20])cc2cc2c1[nH]c1cc[nH+]cc12>>CN1CC[N+:10](C)([H:20])c2cccc3cccc1c23.Cc1c2cc[n:21]cc2cc2c1[nH]c1cc[nH+]cc12 10=20;20,21=21",
"CC(C)(C)n1cc[n+:21]([H:20])c1.C[N:10](C)CCCCCCCNC(=O)/C=N/[O-]>>CC(C)(C)n1cc[n:21]c1.C[N+:10](C)(CCCCCCCNC(=O)/C=N/[O-])[H:20] 10=20;20,21=21",
"C[PH2+:21][H:20].Cc1ccccc1NC(=O)C[N:10]1CCCCC1>>C[PH2:21].Cc1ccccc1NC(=O)C[N+:10]1([H:20])CCCCC1 10=20;20,21=21",
"C/C(=N\[O:21][H:20])C(=O)CO.ClCC[N:10]1CCOCC1>>C/C(=N\[O-:21])C(=O)CO.ClCC[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"CC(C)(C)c1cc(O)[nH][n+:21]1[H:20].c1ccc2cc3[nH]c([S-:10])nc3cc2c1>>CC(C)(C)c1cc(O)[nH][n:21]1.c1ccc2cc3[nH]c([S:10][H:20])nc3cc2c1 10=20;20,21=21",
"CCN(CC)CCC[N+:21](CC)(CC)[H:20].COC(=O)c1ccccc1-n1nc([O-:10])cc1C>>CCN(CC)CCC[N:21](CC)CC.COC(=O)c1ccccc1-n1nc([O:10][H:20])cc1C 10=20;20,21=21",
"C1CCN(CCC[N+:21]2([H:20])CCCCC2)CC1.COc1ccnc2c1ccc1c(OC)cc[n:10]c12>>C1CCN(CCC[N:21]2CCCCC2)CC1.COc1ccnc2c1ccc1c(OC)cc[n+:10]([H:20])c12 10=20;20,21=21",
"C/C(O)=C/C(=O)[O-:10].Cc1ccc([O:21][H:20])cc1[S+](C)C>>C/C(O)=C/C(=O)[O:10][H:20].Cc1ccc([O-:21])cc1[S+](C)C 10=20;20,21=21",
"Clc1cccc(C(c2ccccc2)=[NH:10])c1.NC(C([NH3+])c1ccccc1)=[N+:21](O)[H:20]>>Clc1cccc(C(c2ccccc2)=[NH+:10][H:20])c1.NC(C([NH3+])c1ccccc1)=[N:21]O 10=20;20,21=21",
"CCCSC(c1ccccc1)=[NH:10].C[NH+](C)CCC[N+:21](C)(C)[H:20]>>CCCSC(c1ccccc1)=[NH+:10][H:20].C[NH+](C)CCC[N:21](C)C 10=20;20,21=21",
"CC(=NO)[N-:10]O.CN1C(=O)C(C)(C)[N:21]([H:20])C1=S>>CC(=NO)[N:10](O)[H:20].CN1C(=O)C(C)(C)[N-:21]C1=S 10=20;20,21=21",
"COc1c(N)cccc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N+:21]2(Cc1ccccc1)[H:20].c1cc(-c2cc[n:10]cc2)ccn1>>COc1c(N)cccc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N:21]2Cc1ccccc1.c1cc(-c2cc[n+:10]([H:20])cc2)ccn1 10=20;20,21=21",
